US05296602
To a mixture of 2-hydroxymethyl-1-nitro-3,4,5-trimethoxybenzene (6.5 g, 26.7 mmol) and N,N-diethylaniline (9.96 g, 66.8 mmol) in dry chloroform (150 ml) was added dropwise chloromethylmethyl ether (4.28 g, 53.5 mmol) in an ice-bath. After stirring at room temperature overnight, the reaction mixture was washed successively with 1% hydrochloric acid, water, 10% sodium bicarbonate solution and water, and dried over sodium sulfate. The solvent was removed by evaporation in vacuo and the residue was crystallized from hexane to give 7.62 g (99%) of 2-methoxymethoxymethyl-1-nitro-3,4,5-trimethoxybenzene, mp. 39-40 ° C. 1H-NMR (CDCl3): δ3.40 (3H, s, CH2OMe), 3.93 (6H, s, 2×OMe), 3.94 (3H, s, 1×OMe), 4.73 and 4.82 (each 2H, s, 2 ×CH2), 7.29 (1H, s, H-6). Analyses: Calculated for C12H17NO7 : C, 50.17; H, 5.59; N, 4.88. Found: C, 50.18; H, 5.92; N, 4.80.

reactant | 2-hydroxymethyl-1-nitro-3,4,5-trimethoxybenzene | 26.7 mmol, 6.5 g | OCC1=C(C=C(C(=C1OC)OC)OC)[N+](=O)[O-] | C10H13NO6
reactant | N,N-diethylaniline | 66.8 mmol, 9.96 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | chloromethylmethyl ether | 53.5 mmol, 4.28 g | ClCOC | C2H5ClO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxymethoxymethyl-1-nitro-3,4,5-trimethoxybenzene | 7.62 g, 99% | COCOCC1=C(C=C(C(=C1OC)OC)OC)[N+](=O)[O-] | C12H17NO7
